US04510086
4-Nitrobenzyl 7-oxo-3-thioxo-4-thia-1-azabicyclo[3,2,0]heptane-2-carboxylate
To a stirred solution of 100 mg of 4-nitrobenzyl 3-acetylthio-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate in a mixture of 2 ml of dioxane and 0.2 ml of water was added 19.6 mg of imidazole. After 10 minutes the reaction mixture was diluted with 5 ml of 1M aqueous acid solution and extracted with dichloromethane (2×5 ml). The organic extracts were combined and backwashed with water (2×5 ml), then brine (5 ml), and finally dried and evaporated. The residue was chromatographed on slica gel, with elution by means of ethyl acetate/hexane mixtures. Fractions containing the purified product were combined and evaporated to leave an orange oil (43 mg, 48%).

reactant | 4-nitrobenzyl 3-acetylthio-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 100 mg | C(C)(=O)SC1=C(N2C(CC2S1)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H12N2O6S2
reactant | imidazole | 19.6 mg | N1C=NC=C1 | C3H4N2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.2 ml | O | H2O
product | 4-Nitrobenzyl 7-oxo-3-thioxo-4-thia-1-azabicyclo[3,2,0]heptane-2-carboxylate | 43 mg, 48% | O=C1CC2SC(C(N12)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=S | C13H10N2O5S2
